US07456195B2
To 2-cyanobenzene-1-sulfonyl chloride (201 mg, 1.00 mmol) in THF (5 mL), triethylamine (0.84 mL, 6.00 mmol) and 4-trifluoromethylpiperidine hydrochloride (284 mg, 1.50 mmol) were added. After stirring for 2 h, the reaction was concentrated and diluted with ethyl acetate and washed with water. After drying (Na2SO4), filtering, and concentrating, the residue was purified via silica gel chromatography eluting with 45% ethyl acetate/hexanes to provide 2-(4-(trifluoromethyl)piperidin-1-ylsulfonyl)benzonitrile [95 mg, LC-MS: 319.19 (M+H)+]. The product (52 mg) was dissolved in MeOH (5 mL), conc. HCl (25.0 mg) was added, and the whole was hydrogenated at 50 psi overnight. The reaction was concentrated and purified via preparative HPLC(CH3CN/water/TFA) to provide 210A. LC-MS: 323.21 (M+H)+.

reactant | 2-cyanobenzene-1-sulfonyl chloride | 1.00 mmol, 201 mg | C(#N)C1=C(C=CC=C1)S(=O)(=O)Cl | C7H4ClNO2S
reactant | triethylamine | 6.00 mmol, 0.84 mL | C(C)N(CC)CC | C6H15N
reactant | 4-trifluoromethylpiperidine hydrochloride | 1.50 mmol, 284 mg | Cl.FC(C1CCNCC1)(F)F
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 2-(4-(trifluoromethyl)piperidin-1-ylsulfonyl)benzonitrile | 95 mg | FC(C1CCN(CC1)S(=O)(=O)C1=C(C#N)C=CC=C1)(F)F | C13H13F3N2O2S
